US05962487
A suspension of CBZ-L-Pip-OtBu (0.52 g, 1.6 mmol) and Pd on C (10%, 0.10g) in EtOAc was stirred under a hydrogen atmosphere (balloon) for 1h. The reaction mixture was filtered through Celite, and the filtrate was concentrated. The resulting oil was coupled with CBZ-L-Leu (0.43 g, 1.6 mmol) using the procedure described in Example 1 for the preparation of ethyl-3-[BOC-L-N-Me-Phe-L-(Tr-Gln)]-E-propenoate, to provide CBZ-L-Leu-L-Pip-OtBu (0.57 g, 83%) as a colorless oil after column chromatography on silica (20% EtOAc/hexanes): IR (thin film) 3300, 1726, 1642 cm-1 ; 1H NMR (CDCl3) δ 0.93 (d, 3H, J=6.5 Hz), 1.03 (d, 3H, J=6.5 Hz), 1.46 (s, 9H), 1.50-1.60 (m, 2H), 1.64-1.83 (m, 2H), 2.23-2.27 (m, 2H), 3.19-3.28 (m, 2H), 3.77-3.81 (m, 2H), 4.76-4.83 (m, 2H), 5.10 (s, 2H), 5.26 (d, 1H, J=4.7 Hz), 5.60 (d, 1H, J=8.7 Hz), 7.27-7.36 (m, 5H); Anal. (C24H36N2O5) C, H, N.

reactant | CBZ-L-Pip-OtBu | 1.6 mmol, 0.52 g | N1([C@H](C(=O)OC(C)(C)C)CCCC1)C(=O)OCC1=CC=CC=C1 | C18H25NO4
reactant | CBZ-L-Leu | 1.6 mmol, 0.43 g | N([C@@H](CC(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C14H19NO4
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd | [Pd] | Pd
product | CBZ-L-Leu-L-Pip-OtBu | 0.57 g, 83% | N([C@@H](CC(C)C)C(=O)N1[C@H](C(=O)OC(C)(C)C)CCCC1)C(=O)OCC1=CC=CC=C1 | C24H36N2O5
